US07323455B2
3-[5,5-Di(2-furyl)-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl]-5-fluorobenzonitrile
Prepared from 7-bromo-5,5-di(2-furyl)-1,5-dihydro-4,1-benzoxazepin-2(3H)-one and 3-cyano-5-fluorobenzeneboronic acid generally according to the coupling procedure of example 1. 1H NMR (DMSO-d6): δ 10.34 (s, 1H), 7.73-7.87 (m, 5H), 7.59 (dt, J=10.25, 1.95 Hz, 1H), 7.35 (d, J=8.3 Hz, 1H), 6.98 (d, J=1.95 Hz, 1H), 1H, 6.52 (dd, J=3.42, 1.95 Hz, 2H), 6.29 (dd, J=3.42, 0.98 Hz, 2H), 4.16 (s, 2H); MS (ESI) m/z 415 ([M+H]+); MS (ESI) m/z 413 ([M−H]−); Anal. calcd for C24H15FN2O4: C: 69.56; H: 3.65; N: 6.76. Found: C: 67.60; H: 3.77; N: 5.81.

reactant | 7-bromo-5,5-di(2-furyl)-1,5-dihydro-4,1-benzoxazepin-2(3H)-one | BrC=1C=CC2=C(C(OCC(N2)=O)(C=2OC=CC2)C=2OC=CC2)C1 | C17H12BrNO4
reactant | 3-cyano-5-fluorobenzeneboronic acid | C(#N)C=1C=C(C=C(C1)F)B(O)O | C7H5BFNO2
product | 3-[5,5-Di(2-furyl)-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl]-5-fluorobenzonitrile | O1C(=CC=C1)C1(OCC(NC2=C1C=C(C=C2)C=2C=C(C#N)C=C(C2)F)=O)C=2OC=CC2 | C24H15FN2O4
